US08461158B2
Reaction of N-{1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-piperidinyl}-N-(3-hydroxypropyl)methanesulfonamide with methanesulfonyl chloride as in Example 53, followed by reaction with morpholine for 10 days at room temperature, gave N-{1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-piperidinyl}-N-[3-(4-morpholinyl)propyl]methanesulfonamide in 58% yield. Hydrochloride: mp (MeOH) 229-231° C.; 1H NMR (DMSO-d6) δ10.23 (br s, 1H), 7.89 (d, J=8.0 Hz, 1H), 7.70 (t, JHF=52.9 Hz, 1H), 7.41 (t, J=8.2 Hz, 1H), 6.95 (d, J=7.8 Hz, 1H), 4.84-4.74 (m, 2H), 3.98 (s, 3H), 3.95-3.85 (m, 3H), 3.80 (m, 4H), 3.73-3.67 (m, 6H), 3.39-3.29 (m, 2H), 3.17 (t, J=7.2 Hz, 2H), 3.11-2.99 (m, 9H), 1.94-1.84 (m, 4H), 1.72-1.70 (m, 2H); Anal. Calcd. for C29H42ClF2N9O5S.0.75H2O: C, 48.7; H, 6.1; N, 17.6; Cl, 5.0. Found: C, 48.7; H, 6.2; N, 17.6; Cl, 4.9%.

reactant | N-{1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-piperidinyl}-N-(3-hydroxypropyl)methanesulfonamide | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCC(CC1)N(S(=O)(=O)C)CCCO)C=CC=C2OC)F | C25H34F2N8O5S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-{1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-piperidinyl}-N-[3-(4-morpholinyl)propyl]methanesulfonamide | 58% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCC(CC1)N(S(=O)(=O)C)CCCN1CCOCC1)C=CC=C2OC)F | C29H41F2N9O5S
